US09399639B2
Step 2) 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl ethyl carbonate
To a solution of N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide (0.1 g, 0.2 mmol) in DMF (1 mL) was added K2CO3 (85 mg, 0.6 mmol). The reaction was stirred at rt for 10 min, followed by the addition of TBAB (132 mg, 0.4 mmol) and a solution of 1-chloroethyl ethyl carbonate (35 mg, 0.25 mmol) in DMF (100 μA). The mixture was stirred at rt for 16 h, then diluted with EtOAc (40 mL) and filtered. The filtrate was concentrated in vacuo and the residue was purified by a silica gel column chromatography (PE/EtOAc (v/v)=4/1) to afford the title compound as a white solid (61 mg, 50%). The title compound was characterized by LC-MS and 1H NMR as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide | 0.2 mmol, 0.1 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | K2CO3 | 0.6 mmol, 85 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-chloroethyl ethyl carbonate | 0.25 mmol, 35 mg | C(OC(C)Cl)(OCC)=O | C5H9ClO3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | TBAB | 0.4 mmol, 132 mg | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl ethyl carbonate | 61 mg, 50% | C(OC(C)N1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O)(OCC)=O | C28H26ClF2N3O6S
